US04876251
To a solution of 2.85 ml diisopropylamine in 30 ml anhydrous tetrahydrofuran 12.5 ml 1.5M n-butyllithium (in hexane solution) was added at -78° C. under a nitrogen gas atmosphere, and the mixture was stirred for 15 minutes. To this mixed solution a solution of 3.45 g dimethyl 2-oxoglutarate dimethyl ketal in 15 ml anhydrous tetrahydrofuran was added over a period of 10 minutes, and the resulting mixture was stirred for 15 minutes. A solution of 1.32 ml chloromethyl methyl ether and 1.36 ml hexamethylphosphoramide in anhydrous tetrahydrofuran was added over a period of 10 minutes. The resulting mixture, after raising temperature to -20° C. over a period of 30 minutes, was stirred at the same temperature for 3 hours. To the reaction mixture a saturated aqueous solution of ammonium chloride was added, and the resulting mixture was extracted with ethyl acetate. The resulting extract was washed with water and dried (MgSO4), then the solvent was evaporated. The resulting residue was eluted with hexane-ethyl acetate (2:1) via column chromatography using silica gel to yield 2.28 g dimethyl 4-methoxymethyl-2-oxoglutarate dimethyl ketal in the form of a light yellow oily substance.

reactant | diisopropylamine | 2.85 ml | C(C)(C)NC(C)C | C6H15N
reactant | dimethyl 2-oxoglutarate dimethyl ketal | 3.45 g | COC(C(CCC(=O)OC)=O)(OC)OC | C9H16O6
reactant | chloromethyl methyl ether | 1.32 ml | COCCl | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.5M, 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 1.36 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | dimethyl 4-methoxymethyl-2-oxoglutarate dimethyl ketal | 2.28 g | COC(C(CC(C(=O)OC)COC)=O)(OC)OC | C11H20O7
